US07151096B2
To a solution of 2-chloro-N-methoxy-N-methyl-isonicotinamide (20 g, 100 mmol) in THF (100 mL) is added a solution of methyl magnesium bromide (3M in THF, 73 mL, 220 mmol) at −40° C. After stirring the mixture for 2 hours at this temperature, the mixture is quenched with ice-cooled saturated ammonium chloride solution (300 mL). The organic phase is separated. The aqueous layer is extracted with ethyl acetate (2×150 mL). The combined organic layers are washed with brine and dried over sodium sulfate, filtered and concentrated under reduced pressure to give 4-acetyl-2-chloro-pyridine (14.4 g), which is used for the next reaction without further purification; ESI-MS (m/z): 156.0 (M++H).

reactant | 2-chloro-N-methoxy-N-methyl-isonicotinamide | 100 mmol, 20 g | ClC=1C=C(C(=O)N(C)OC)C=CN1 | C8H9ClN2O2
reactant | methyl magnesium bromide | 220 mmol, 3M, 73 mL | C[Mg]Br
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 4-acetyl-2-chloro-pyridine | 14.4 g | C(C)(=O)C1=CC(=NC=C1)Cl | C7H6ClNO
